US07763657B2
3-(4-t-butylphenyl)-N-(4-methanesulfonylamino-3-vinylbenzyl)acryl amide
A dried 25 ml two-neck round bottom flask was filled with argon gas and the solution of N-(4-aminomethyl-2-vinyl-phenyl)-methanesulfonamide (51 mg, 0.23 mmol) and 3-(4-t-butyl-phenyl)-acrylic acid (1.2 eq, 0.27 mmol, 55.26 mg) in DMF was put into the flask. To the solution were added triethylamine (2 eq, 0.46 mmol, 64.12 mg) and diethylcyanophosphonate (1.2 eq, 0.27 mmol, 41.88 μl) and stirred for 12 hours. After confirming the completion of the reaction with TLC, the reaction solution was extracted with methylenechloride, washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The obtained liquid was column-chromatographed (n-hexane/ethyl acetate=1/1) to yield a white solid (48.4 mg, 43.37%).

reactant | N-(4-aminomethyl-2-vinyl-phenyl)-methanesulfonamide | 0.23 mmol, 51 mg | NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C10H14N2O2S
reactant | 3-(4-t-butyl-phenyl)-acrylic acid | 0.27 mmol, 55.26 mg, 1.2 eq | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)O | C13H16O2
reactant | triethylamine | 0.46 mmol, 64.12 mg, 2 eq | C(C)N(CC)CC | C6H15N
reactant | diethylcyanophosphonate | 0.27 mmol, 41.88 μl, 1.2 eq | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-t-butylphenyl)-N-(4-methanesulfonylamino-3-vinylbenzyl)acryl amide | 48.4 mg, 43.37% | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C23H28N2O3S
